US06071935
C. 2-Amino-3-pyridin-4-yl-2-pyridin-4-ylmethyl-propionic acid methyl ester
2-Benzhydrylideneamino-3-pyridin-4-yl-2-pyridin-4-ylmethyl-propionic acid methyl ester (49.6 g, 113 mmol) was dissolved in anhydrous THF (640 ml). To the reaction was added 227 ml of a solution of 2.0 M aqueous hydrochloric acid (HCl). The mixture was stirred at ambient temperature for one hour. The reaction was subsequently concentrated under vacuum to remove the THF. The reaction was then partitioned between ethyl ether and water. The aqueous layer was washed two more times with ethyl ether. The pH of the aqueous layer was then adjusted to 9 with sodium carbonate (Na2CO3) and the solution is extracted with methylene chloride until virtually no product is left in the methylene chloride (CH2Cl2) layer. The CH2Cl2 extracts were combined, dried over Na2SO4, filtered and concentrated under vacuum to give 25.6 g (94.4 mmol) of the titled compound as a yellow solid.

reactant | 2-Benzhydrylideneamino-3-pyridin-4-yl-2-pyridin-4-ylmethyl-propionic acid methyl ester | 113 mmol, 49.6 g | COC(C(CC1=CC=NC=C1)(CC1=CC=NC=C1)N=C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C28H25N3O2
reactant | hydrochloric acid | 2.0 M | Cl | ClH
solvent | THF | 640 ml | C1CCOC1 | C4H8O
product | 2-Amino-3-pyridin-4-yl-2-pyridin-4-ylmethyl-propionic acid methyl ester | 94.4 mmol, 25.6 g | COC(C(CC1=CC=NC=C1)(CC1=CC=NC=C1)N)=O | C15H17N3O2
